US04139617
19-Methoxyandrost-5-ene-3β,17β-diol is dissolved in a mixture of acetic anhydride and pyridine and the solution allowed to stand overnight at room temperature. The solvents are removed under vacuum and the remaining residue crystallized from an acetone-hexane solution to yield 19-methoxyandrost-5-ene-3β,17β-diol diacetate.

reactant | 19-Methoxyandrost-5-ene-3β,17β-diol | COC[C@]12CC[C@@H](CC1=CC[C@H]1[C@@H]3CC[C@@H]([C@@]3(C)CC[C@H]21)O)O | C20H32O3
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 19-methoxyandrost-5-ene-3β,17β-diol diacetate | C(C)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)COC)OC(C)=O | C24H36O5
